US07495007B2
In a manner similar to the method described in example 1b, 2-bromo-2-fluoro-benzaldehyde (8.1 g, 40 mmol) (Alfa) was used as the starting material in place of 3-chloro-benzaldehyde to react with 1,1,1,3,3,3-hexamethyldisilazane (6.4 g, 40 mmol), n-butyllithium (2.5 M, 16 mL, 40 mmol), trimethylsilyl chloride (4.4 g, 40 mmol), triethylamine (5.6 g, 52 mmol) and acetyl chloride (4.1 g, 52 mmol) to give 1-(2-bromo-2-fluorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2-bromo-2-fluoro-benzaldehyde | 40 mmol, 8.1 g | BrC1(C(C=O)C=CC=C1)F | C7H6BrFO
reactant | 3-chloro-benzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 40 mmol, 6.4 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 40 mmol, 2.5 M, 16 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 40 mmol, 4.4 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 52 mmol, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 52 mmol, 4.1 g | C(C)(=O)Cl | C2H3ClO
product | 1-(2-bromo-2-fluorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC1(C(C=CC=C1)C=NC(=C)O[Si](C)(C)C)F | C12H17BrFNOSi
